** sch_path: /foss/design/ldo/adc_widac_cas_final.sch
.lib /foss/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include /foss/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

**.subckt adc_widac_cas_final
V1 vddd GND 1.8
V9 vp GND 0.2
xx6 b4 vss vss vddd vddd b4i sky130_fd_sc_hd__clkinv_1
xx4 b1 vss vss vddd vddd b1i sky130_fd_sc_hd__clkinv_1
xx5 b0 vss vss vddd vddd b0i sky130_fd_sc_hd__clkinv_1
V7 vss GND 0
V2 b4 GND 1.8
V3 b3 GND 1.8
V4 b2 GND 1.8
V5 b1 GND 1.8
V12 b0 GND 1.8
C1 vx inp 20p m=1
XM32 inp reset vx vx sky130_fd_pr__nfet_01v8 L=0.15 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
V22 reset GND PULSE(0 1.8 0 10p 10p 40n 256.04u)
I1 net1 GND 20u
x3 vdd net1 vx vp inp GND opamp_singleslope_wcapnew
C2 vx_neg inp_neg 20p m=1
V11 net3 net4 1
XM39 net3 reset inp_neg GND sky130_fd_pr__nfet_01v8 L=0.15 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM40 net4 reset vx_neg GND sky130_fd_pr__nfet_01v8 L=0.15 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
x8 vdd net2 vx_neg vp inp_neg GND opamp_singleslope_wcapnew
I4 net2 GND 20u
I3 vdd net6 10n
x7 vdd net5 net7 b2 b4 b0 b1 b3 b2i b0i b4i b3i b1i net6 GND idac
V10 ck GND PULSE(0 1.8 500u 10p 10p .5u 1u)
V23 inn GND 0.8
V6 vx net5 0
V8 vx_neg net7 0
I0 net8 GND 10u
x9 vdd inp ck outp inn outn net8 GND comparator_ss_h
I2 net9 GND 10u
x10 vdd inp_neg ck outp_neg inn outn_neg net9 GND comparator_ss_h
xx7 b2 vss vss vddd vddd b2i sky130_fd_sc_hd__clkinv_1
xx3 b3 vss vss vddd vddd b3i sky130_fd_sc_hd__clkinv_1
V13 in+ GND 1.2
V15 vdd3v3 GND 3.3
C3 vout_s1 GND 15p m=1
R3 vout_s1 n5 120k m=1
R4 n5 GND 120k m=1
I5 net10 GND 15u
x2 vdd3v3 net10 n5 in+ vout_s1 GND ldoc1_wores
C4 net11 GND 85p m=1
R2 net11 nx 60k m=1
R5 nx GND 120k m=1
I6 net12 GND 15u
x1 vout_s1 net12 nx in+ net11 GND ldoc2_wores
V14 vdd net11 0
**** begin user architecture code




.include /foss/design/single_slope/netgen/idac1_pex.spice
.include /foss/design/single_slope/netgen/ldoc1_wores_pex.spice
.include /foss/design/single_slope/netgen/ldoc2_wores_pex.spice
.include /foss/design/single_slope/guncel_layoutlar/netgen/preamp_singleslope_new_pex.spice
.include /foss/design/single_slope/guncel_layoutlar/netgen/latch_singleslope_new_pex.spice
.include /foss/design/single_slope/guncel_layoutlar/netgen/opamp_singleslope_addcap_pex.spice
.option method = Gear

.control
set color0=white

tran 10u 800u
let i_1v8= i(v14)
let i_3v3= i(v15)
plot inp inn outp outn
plot inp_neg inn outp_neg outn_neg
plot i_1v8 i_3v3

.endc
.end





.measure tran ipp1 PP i(v15) from=517u to=518u
.measure tran ipp2 PP i(v15) from=532u to=533u
.measure tran ipp3 PP i(v15) from=562u to=563u
.measure tran ipp4 PP i(v15) from=612u to=613u
.measure tran ipp5 PP i(v15) from=682u to=683u
.measure tran ipp6 PP i(v15) from=732u to=733u
.measure tran iavg AVG i(v15) from=513u to=767u
.measure tran ravg AVG zort from=1u to=255u
.end


**** end user architecture code
**.ends

* expanding   symbol:  design/single_slope/comparator_ss_h.sym # of pins=8
** sym_path: /foss/design/single_slope/comparator_ss_h.sym
** sch_path: /foss/design/single_slope/comparator_ss_h.sch
.subckt comparator_ss_h  vdd inp ck outp inn outn iref vss
*.iopin vdd
*.iopin vss
*.iopin ck
*.iopin inp
*.iopin inn
*.iopin outp
*.iopin outn
*.iopin iref
x2 vdd inp inn iref net1 net2 vss preamp_singleslope
x1 vdd ck outp outn net1 net2 vss latch_singleslope
.ends

.GLOBAL GND
.end
