** sch_path: /foss/design/ldo/ldos_wores_tb.sch
**.subckt ldos_wores_tb
V1 vdd3v3 GND 3.3
I2 net1 GND 15u
C1 vout GND 100p m=1
V4 net2 GND 1.2
V6 in+ net2 AC 1
V7 net3 GND 0
I1 vout net3 1m
x1 vdd3v3 net1 in- in+ vout GND ldos_wores
R13 vout in- 60k m=1
R14 in- GND 120k m=1
**** begin user architecture code

** opencircuitdesign pdks install
.lib /foss/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt





.include /foss/design/single_slope/netgen/ldos_wores_pex.spice
.option method=Gear
*.ic v(vout)=1.8 v(n5)=1.2
.control
set color0=white
set units= degrees
*set sqrnoise
save all


tran .1u 20u
*let gmdp= @m.xm14.msky130_fd_pr__pfet_01v8[gm]
plot vb2 vb3
plot vout
plot n1
plot a b c d e f

*reset
*ac dec 100 1 1G
*plot vdb(vout)
*plot phase(vout)
*plot vdb(outn)
*plot inp inn out1

*meas ac gbw when vdb(vout)=0
*meas ac gbw_2 when vout=1

*reset
*noise v(vout) V4 dec 100 1 52Meg
*print inoise_total onoise_total
*setplot noise1
*plot inoise_spectrum xlog ylog
*plot onoise_spectrum xlog ylog


show all
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
